US09163012B2
4-(1-((1-hydroxy-4-adamantyloxy)carbonyl)pyrrolidin-3-yl)pyridine 1-oxide
A stirred solution of 1-hydroxy-4-adamantyl 3-(pyridin-4-yl)pyrrolidine-1-carboxylate (476 mg, 1.39 mmol) in CH2Cl2 (50 mL) was cooled in an ice bath and solid m-CPBA (˜70%, 342 mg, ˜1.4 mmol) was added. The ice bath was allowed to melt and the mixture was stirred at rt for 2 days. The mixture was diluted with MeOH (50 mL) and Amberlyst A26 OH− (5 g) was added. The mixture was stirred for 1 h, filtered and the filtrate was concentrated to leave a viscous oil (539 mg). A 35-mg portion was purified by prep HPLC to afford the title compound (10.5 mg) as an oil. LC-MS Method 1 tR=1.02 min, m/z=359, 1H NMR (CDCl3) [selected resonances] 4.67 (s, 0.5H), 4.78 (s, 0.5H), 7.58 (d, 2H), 8.38 (d, 2H).

reactant | 1-hydroxy-4-adamantyl 3-(pyridin-4-yl)pyrrolidine-1-carboxylate | 1.39 mmol, 476 mg | N1=CC=C(C=C1)C1CN(CC1)C(=O)OC1C2CC3(CC(CC1C3)C2)O | C20H26N2O3
reactant | m-CPBA | ˜1.4 mmol, 342 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 50 mL | CO | CH4O
product | 4-(1-((1-hydroxy-4-adamantyloxy)carbonyl)pyrrolidin-3-yl)pyridine 1-oxide | 539 mg | OC12CC3C(C(CC(C1)C3)C2)OC(=O)N2CC(CC2)C2=CC=[N+](C=C2)[O-] | C20H26N2O4
